US09029536B2
B) 5-(Benzyloxy)-N-methoxy-N-methylpyridine-2-carboxamide
A mixture of 5-hydroxy-N-methoxy-N-methylpicolinamide (7.51 g), K2CO3 (6.27 g) and benzyl bromide (2.83 mL) in acetone (70 mL) was stirred at 50° C. for 14 h, evaporated, treated with water and extracted with AcOEt. The organic layer was dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to the title compound (4.87 g).

reactant | 5-hydroxy-N-methoxy-N-methylpicolinamide | 7.51 g | OC=1C=CC(=NC1)C(=O)N(C)OC | C8H10N2O3
reactant | K2CO3 | 6.27 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 2.83 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 70 mL | CC(=O)C | C3H6O
product | 5-(Benzyloxy)-N-methoxy-N-methylpyridine-2-carboxamide | C(C1=CC=CC=C1)OC=1C=CC(=NC1)C(=O)N(C)OC | C15H16N2O3
